US04772722
Preparation of 2,2,4,4-Tetra-(p-aminophenoxy)-6,6-diphenylcyclotriphosphazene
2,2,4,4-Tetra(p-nitrophenoxy)-6,6-diphenylcyclotriphosphazene (16.01 g, 0.021 moles), platinum oxide catalyst (0.09 g, 0.0004 moles), and 50 mls aniline are added to a 500 ml Fischer-Porter reaction vessel. The reaction is heated to 50° C. at 50-60 psi of hydrogen pressure for 65 hours. The reaction mixture is then cooled and concentrated to about 25 mls under vacuum. The concentrate is poured into 250 mls cyclohexane, and a brown coagulate forms. The solvent is decanted off and the residue is poured into hot cyclohexane and allowed to cool until stirring becomes difficult. The solvent is decanted off and the residue chilled for about 20 minutes. Recrystallization from o-dichlorobenzene yields a pale brow precipitate, which is boiled in cyclohexane for two hours. A solid is recovered (10.8 g, 78% yield). 31P NMR (THF) δ21.3(triplet), 10.1(doublet).

reactant | 2,2,4,4-Tetra(p-nitrophenoxy)-6,6-diphenylcyclotriphosphazene | 0.021 moles, 16.01 g | [N+](=O)([O-])C1=CC=C(OP2(=NP(=NP(=N2)(OC2=CC=C(C=C2)[N+](=O)[O-])OC2=CC=C(C=C2)[N+](=O)[O-])(C2=CC=CC=C2)C2=CC=CC=C2)OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C36H26N7O12P3
reactant | aniline | 50 mls | NC1=CC=CC=C1 | C6H7N
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 0.0004 moles, 0.09 g | [Pt]=O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2,2,4,4-Tetra-(p-aminophenoxy)-6,6-diphenylcyclotriphosphazene | 78% yield | NC1=CC=C(OP2(=NP(=NP(=N2)(OC2=CC=C(C=C2)N)OC2=CC=C(C=C2)N)(C2=CC=CC=C2)C2=CC=CC=C2)OC2=CC=C(C=C2)N)C=C1 | C36H34N7O4P3
